Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.668447111569999
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C@:8]([O:7][O:6])([H:9])[C:10]([H:11])([H:12])[H:13],-0.0402359356794
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:8][C:9]=[C:10]([H:11])[H:12].[H:7],4.36722604455
[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-6.947159087619999
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.20042051545
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9],3.66926470165
[C:1]#[C:2][C@@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],0.593608262329
[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7][H:8].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:9]([H:10])([H:11])[H:12],6.97322622613
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:5],4.12051550555
[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-2.52256557972
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.06675430663
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.82484972528
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4],1.339716811
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],0.974048042897
[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]#[C:11][H:12].[H:10],1.94672951071
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],3.87514408135
[H:1][O:2][C:3]1[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],0.40377949617
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6],1.3286148435
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-5.510909558069999
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.31633933767
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9].[H:10],3.89648361809
[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-5.22857225292
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.909979220069999
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][O:4][O:5]>>[H:1][C:2]#[C:3][O:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.81471129242
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])=[C:8]=[O:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[O:9],-2.07683460295
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.96220431782
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:9]/[C:7](=[C:5](/[C:3](=[O:2])[H:4])[H:6])[H:8],0.801888026101
